*
* Low-Pass Filter + Limiter
*

* forces current values to be saved
.options savecurrents
*8.388006e+01  1.821660e+02  4.687563 9.375126e+00
******************************************
* input voltage source
vS 0 1 0.0 sin(-1.701629e+01 1.610751 50)


R2 1 2 3k
Dn4 2 3 default
Dn5 3 4 default
Dn6 4 5 default
Dn7 5 6 default
Dn8 6 7 default
Dn9 7 8 default
Dn10 8 9 default
Dn11 9 10 default
Dn12 10 11 default
Dn13 11 12 default
Dn14 12 13 default
Dn15 13 14 default
Dn16 14 15 default
Dn17 15 16 default
Dn18 16 17 default
Dn19 17 18 default
Dn20 18 19 default
Dn21 19 0 default


.model Default D
.op
.end

.control

* analise no tempo
tran 5e-4 100e-3
* tran 1e-5 10e-3

plot v(1)-v(2) v(1)
plot v(4)

print maximum(v(1))
print maximum(v(2))
print maximum(v(1)-v(2))

.endc
